US05962438
Under a nitrogen atmosphere, 60% sodium hydride (0.132 g) was suspended in dry tetrahydrofuran (4 ml), and tetraisopropyl methylenebisphosphonate (1.1 g) was added dropwise thereto at room temperature. After stirring for 10 minutes, ethyl bromoacetate (0.354 ml) was added dropwise thereto and the resulting mixture was stirred at the same temperature for 1 hour. Water was added thereto, followed by extraction (twice) with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (methanol:methylene chloride=2:98) to obtain ethyl 3,3-bis(diisopropoxyphosphinoyl)propionate (0.37 g, yield 27%).

reactant | sodium hydride | 0.132 g | [H-].[Na+]
reactant | tetraisopropyl methylenebisphosphonate | 1.1 g | C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O | C13H30O6P2
reactant | ethyl bromoacetate | 0.354 ml | BrCC(=O)OCC | C4H7BrO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | ethyl 3,3-bis(diisopropoxyphosphinoyl)propionate | 0.37 g, yield 27% | C(C)(C)OP(=O)(C(CC(=O)OCC)P(=O)(OC(C)C)OC(C)C)OC(C)C | C17H36O8P2
